
* Supply
Vdd vdd gnd {SUPPLY}

* Clock Generation
Vclk clk gnd PULSE(0 {SUPPLY} 20n 100p 100p 20n 40n)

* Inputs - limited randomization for verification
* You can change these values or make a PWL to randomize further
VA0 A0 gnd 1.8
VB0 B0 gnd 1.8
VA1 A1 gnd 1.8
VB1 B1 gnd 1.8
VA2 A2 gnd 1.8
VB2 B2 gnd 1.8
VA3 A3 gnd 1.8
VB3 B3 gnd 1.8
VA4 A4 gnd 1.8
VB4 B4 gnd 1.8

* Initial carry input
VCin Cin gnd 0

Xn1 Cinbar Cin gnd gnd nmos wn=1u
Xp1 Cinbar Cin vdd vdd pmos wp=2u

* Instantiate 5-bit Manchester Carry Adder
Xmca clk A0 B0 A1 B1 A2 B2 A3 B3 A4 B4 Cin Cinbar Cout Coutbar S0 S1 S2 S3 S4 vdd gnd mca_5bit

* Probes / Measurement
.control
tran 0.1n 200n

run
* plot outputs
plot Cout S0+2 S1+4 S2+6 S3+8 S4+10 Coutbar-2
.endc

.end
